US06143764
6,7-Dimethoxy-4-(1-naphthyloxy)quinoline [9]
4-Chloro-6,7-dimethoxyquinoline (97 mg) and commercially available 1-naphthol (340 mg) were mixed and stirred at 150° C. for 8 hours. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting first with hexane/ethyl acetate (3/1) and then with chloroform/methanol (100/1), and further purified by thin layer chromatography on silica gel eluting with hexane/ethyl acetate (1/1) to obtain 57 mg of the title compound (yield: 40%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 97 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 1-naphthol | 340 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6,7-Dimethoxy-4-(1-naphthyloxy)quinoline | 57 mg, yield: 40% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=CC2=CC=CC=C12 | C21H17NO3
